US05210092
To a mixture of 1-(4-ethoxycarbonylphenyl)pyrrole-2-carbonitrile (5.16 g) and aluminum chloride (5.72 g) in 1,2-dichloroethane (51 ml) was added a solution of dichloromethylmethyl ether (2.97 g) in 1,2-dichloroethane (5 ml) in one portion at -15° C. The mixture was stirred for one hour at the same temperature and then dichloromethylmethyl ether (0.6 g) was added therein. After stirring for 3 hours at 5° C., the reaction mixture was quenched with 10% hydrochloric acid. The separated organic layer was washed with 10% hydrochloric acid three times, dried, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluted by 1% methanol in dichloromethane to yield 1-(4-ethoxycarbonylphenyl)-4-formylpyrrole-2-carbonitrile (2.96 g) as a pale yellow solid.

reactant | 1-(4-ethoxycarbonylphenyl)pyrrole-2-carbonitrile | 5.16 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC=C1)C#N | C14H12N2O2
reactant | aluminum chloride | 5.72 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dichloromethylmethyl ether | 2.97 g | ClC(Cl)OC | C2H4Cl2O
reactant | dichloromethylmethyl ether | 0.6 g | ClC(Cl)OC | C2H4Cl2O
solvent | 1,2-dichloroethane | 51 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
product | 1-(4-ethoxycarbonylphenyl)-4-formylpyrrole-2-carbonitrile | 2.96 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)C=O)C#N | C15H12N2O3
